US06054470
A mixture of 2,2-dimethyl-(2-naphthyl)acetic acid benzyl ester (0.46 g, 1.5 mmol) and 10% Pd/C (0.040 g) in ethanol (5 mL) was hydrogenated at 1 atmosphere for 16 hours. The catalyst was removed by filtration, and the solvent was evaporated to give 2,2-dimethyl-(2-naphthyl)acetic acid (0.33 g, 1.5 mmol, 100%).

reactant | 2,2-dimethyl-(2-naphthyl)acetic acid benzyl ester | 1.5 mmol, 0.46 g | C(C1=CC=CC=C1)OC(C(C)(C)C1=CC2=CC=CC=C2C=C1)=O | C21H20O2
solvent | ethanol | 5 mL | C(C)O | C2H6O
catalyst | Pd/C | 0.040 g | [Pd] | Pd
product | 2,2-dimethyl-(2-naphthyl)acetic acid | 1.5 mmol, 0.33 g, 100% | CC(C(=O)O)(C)C1=CC2=CC=CC=C2C=C1 | C14H14O2
